US06992087B2
Preparation of 5-(4-methoxy-2-methylphenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-(2,4-dichlorophenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and 2-methyl-4-methoxy phenyl boronic acid, and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.81, 2.01, 2.06, 2.13, 2.22, 2.77, 3.71, 4.38, 5.39, 6.70, 7.09, 7.31; 13C NMR (CDCl3) δ 20.07, 20.47, 20.54, 22.09, 29.96, 30.28, 48.94, 55.68, 111.58, 116.05, 126.64, 127.57, 129.43, 129.60, 131.24, 132.37, 135.83, 138.31, 138.56, 138.74, 140.69, 147.04, 150.92, 159.51; HRMS (ESI+) for C24H27N3O1 m/z cald 374.2232 (M+H)+ found 374.2226

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-(2,4-dichlorophenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)NC1CCCC2=CC=CC=C12)C | C22H21Cl2N3
reactant | 2-methyl-4-methoxy phenyl boronic acid | CC1=C(C=CC(=C1)OC)B(O)O | C8H11BO3
product | 5-(4-methoxy-2-methylphenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | COC1=CC(=C(C=C1)C=1N=C(C(=NC1C)NC1CCCC2=CC=CC=C12)C)C | C24H27N3O
